US04564674
One g of diisopropyl amine was dissolved in 7.5 ml of THF at 0° C., and 7 ml of a 1.6M BuLi hexane solution was dropwise added. The mixture was stirred for 15 minutes at 0° C. The reaction solution was cooled to -78° C., and then 0.88 g (10 mmol) of methyl propionate was added. Thirty minutes later, 1.64 g (12 mmol) of dimethyl isopropyl silyl chloride was added thereto, and the mixture was stirred for 30 minutes. To the reaction solution, 1.9 ml of methyl iodide and 5 ml of pentane were added at -78° C., and then the reaction mixture was stirred at 0° C. for 30 minutes by means of ice bath. Then, the reaction mixture was left to stand overnight in a refrigerator. The reaction mixture was subjected to filtration, and the filtrate was distilled under reduced pressure, whereby 1.24 g (66%) of crude methylketene methyl dimethylisopropylsilyl acetal was obtained. NMR(CCl4)δ(ppm): 0.12(6H, s, (CH3)2Si), 0.96(6H, s, CH(CH3)2), 0.99(1H, s, CH(CH3)2), 1.40(3H, d, J=6 Hz, =CHCH3), 3.45(3H, s, OCH3), 3.57(1H, q, J=6 Hz, CH3CH=).

reactant | diisopropyl amine | C(C)(C)NC(C)C | C6H15N
reactant | BuLi hexane | 1.6M | [Li]CCCC.CCCCCC
reactant | methyl propionate | 10 mmol, 0.88 g | C(CC)(=O)OC | C4H8O2
reactant | dimethyl isopropyl silyl chloride | 12 mmol, 1.64 g | C[Si](C(C)C)(C)Cl | C5H13ClSi
reactant | methyl iodide | 1.9 ml | CI | CH3I
solvent | THF | 7.5 ml | C1CCOC1 | C4H8O
solvent | pentane | 5 ml | CCCCC | C5H12
product | methylketene methyl dimethylisopropylsilyl acetal | 1.24 g, 66% | C[Si](C(C)C)(C)OC(=CC)OC | C9H20O2Si
